US07465731B2
To a stirred solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (265 mg, 0.529 mmol) in methanol (5 mL) was added hydroxylamine hydrochloride (184 mg, 2.65 mmol) at ambient temperature. To this mixture was added 1N potassium methoxide in methanol (5.29 mL, 5.29 mmol) dropwise in an ice bath and the resulting mixture was stirred at ambient temperature for three hours. To the mixture was added 1N hydrogen chloride to neutralize the solution. The solvent was removed in vacuo and the residue was desalted using ion-exchange resin. The crude product was purified by preparative high-pressure liquid chromatography to afford tert-butyl (5-[(1E)-3-(hydroxyamino)-3-oxo-1-propen-1-yl]-2-pyridinyl)[(3R)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-3-pyrrolidinyl]carbamate (103 mg) as a colorless wax.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 0.529 mmol, 265 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)C1CC(NC(C1)(C)C)(C)C | C28H44N4O4
reactant | hydroxylamine hydrochloride | 2.65 mmol, 184 mg | Cl.NO
reactant | potassium methoxide | 1N | C[O-].[K+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5.29 mmol, 5.29 mL | CO | CH4O
product | tert-butyl (5-[(1E)-3-(hydroxyamino)-3-oxo-1-propen-1-yl]-2-pyridinyl)[(3R)-1-(2,2,6,6-tetramethyl-4-piperidinyl)-3-pyrrolidinyl]carbamate | 103 mg | ONC(/C=C/C=1C=CC(=NC1)N(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1CC(NC(C1)(C)C)(C)C)=O | C26H41N5O4
